US06822097B1
7-Diethylaminomethyl-3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one
This compound was prepared according to the method described in example 8768 employing 3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one-7-carbaldehyde and N,N-diethylamine to give a yellow solid. MS m/z: 391.3 (M+1).

reactant | 3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one-7-carbaldehyde | N1=CC=C(C=C1)C=1SC=C(N1)C=1C(NC2=CC(=CC=C2C1)C=O)=O | C18H11N3O2S
reactant | N,N-diethylamine | C(C)NCC | C4H11N
product | 7-Diethylaminomethyl-3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one | C(C)N(CC)CC1=CC=C2C=C(C(NC2=C1)=O)C=1N=C(SC1)C1=CC=NC=C1 | C22H22N4OS
